US06660876B2
Preparation of 6,6′-divinyl-2,2′-dihydroxy-1,1′-binaphthyl:
A solution of 6,6′-dibromo-2,2′-dihydroxy-1,1′-binaphthyl (0.694 g, 1.56 mmol), Pd(OAc)2 (0.020 g, 5 mol %), P(o-tolyl)3 (0.080 g, 15 mol %) and Et3N (0.5 mL) in DMF (2 mL) was pressurized with ethylene (200 psi) at 75° C. for 18 hrs. The resulting mixture was diluted in ethyl acetate (20 mL) and filtered through celite, followed by water (20 mL) and brine (20 mL) washes. The solution was dried over MgSO4 and evaporated to produce a tan solid, which was purified by column chromatography to yield the desired product in 54% yield (0.286 g).

reactant | 6,6′-dibromo-2,2′-dihydroxy-1,1′-binaphthyl | 1.56 mmol, 0.694 g | BrC=1C=C2C=CC(=C(C2=CC1)C1=C(C=CC2=CC(=CC=C12)Br)O)O | C20H12Br2O2
reactant | P(o-tolyl)3 | 0.080 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
reactant | ethylene | C=C | C2H4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 0.020 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6,6′-divinyl-2,2′-dihydroxy-1,1′-binaphthyl | 54% yield | C(=C)C=1C=C2C=CC(=C(C2=CC1)C1=C(C=CC2=CC(=CC=C12)C=C)O)O | C24H18O2
